US06548670B1
To a solution of 122 g of ortho-toluenediamine (1.0 mole) dissolved in 500 cc of 2 M acetic acid, 250 cc of 4 M sodium acetate solution was added with stirring. The mixture was heated up to 60° C. and poured rapidly into a solution of 298.4 g (1.05 moles) of sodium glyoxal bisulfite in 1500 cc of water previously heated to 60° C. The resulting dark solution was stirred for one hour and it was then cooled down in an ice bath until the temperature had dropped below 10° C. The solution was then neutralized with 120 g of sodium hydroxide pellets. After the sodium hydroxide had dissolved, 500 g of potassium carbonate was added. During the addition of alkali, the solution turned red and a black oil separated out. Most of the oily amine was removed by extraction with pentane or hexane and the combined organic phase was dried over MgSO4, filtered and vacuum dried to give a brown oil that upon distillation gave methyl-quinoxaline (92 g) as a clear pale yellow to colorless liquid (80% yield).

reactant | ortho-toluenediamine | 1.0 mole, 122 g | C1(C(C=CC=C1)N)(C)N | C7H12N2
reactant | sodium acetate | 4 M, 250 cc | C(C)(=O)[O-].[Na+]
reactant | sodium glyoxal bisulfite | 1.05 moles, 298.4 g | S([O-])(O)=O.C(=O)C=O.[Na+]
reactant | sodium hydroxide | 120 g | [OH-].[Na+]
reactant | potassium carbonate | 500 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 2 M, 500 cc | C(C)(=O)O | C2H4O2
solvent | water | 1500 cc | O | H2O
product | methyl-quinoxaline | 92 g | CC1=NC2=CC=CC=C2N=C1 | C9H8N2
